US09353075B2
Step 6. Preparation of 5-phenylpentyl-N-[(2R*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate
Under nitrogen atmosphere, to a stirred mixture of (2R*,3R*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid and (2R*,3S*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid (0.076 g, 0.24 mmol) in dry CH2Cl2 (10.0 mL), at 0° C., Et3N (0.2 mL, 1.44 mmol) and subsequently TBTU (0.091 g, 0.28 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. The organics were then removed under reduced pressure, and the resulting crude product purified by column chromatography, using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 100:0 to 80:20) to afford the pure title compound (0.041 g, 56%), as pure anti diastereoisomer, as white solid. MS (ESI) m/z: 337 [M−NH4]+; (ESI) m/z: 318 [M−H]−. 1H NMR (DMSO-d6) δ 0.87 (d, J=6.75 Hz, 3H), 0.95 (d, J=6.55 Hz, 3H), 1.27-1.43 (m, 2H), 1.49-1.69 (m, 4H), 1.87-2.08 (m, 1H), 2.57 (t, J=7.67 Hz, 2H), 3.99 (t, J=6.59 Hz, 2H), 4.22 (dd, J=4.39, 9.13 Hz, 1H), 4.73 (dd, J=4.40, 8.18 Hz, 1H), 7.10-7.35 (m, 5H), 8.06 (d, J=8.16 Hz, 1H).

reactant | (2R*,3R*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | O[C@@H]([C@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)C(C)C | C18H27NO5
reactant | (2R*,3S*)-3-hydroxy-4-methyl-2-(5-phenylpentoxy-carbonylamino)-pentanoic acid | 0.24 mmol, 0.076 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)C(C)C | C18H27NO5
reactant | Et3N | 1.44 mmol, 0.2 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.28 mmol, 0.091 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 5-phenylpentyl-N-[(2R*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate | 0.041 g, 56% | C1(=CC=CC=C1)CCCCCOC(N[C@@H]1[C@H](OC1=O)C(C)C)=O | C18H25NO4
